US05914339
To a stirred mixture of 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid (1.0 g, 2.37 mmol), and 2-methoxy-1-ethanol (10 mL) was added excess HCl(g). The mixture became homogeneous and was stirred at 23° C. After 12 h, the solution was concentrated, and chromatographed on silica gel, eluting with CHCl3 /MeOH (1/0, then 40/1, 20/1 and 10/1) to give fractions containing 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-(2-methoxy-ethyl) ester (Rf =0.37 (10/1 CHCl3 /MeOH)) as a viscous oil. This oil was dissolved in Et2O (10 mL) and HCl(g) was bubbled through the solution for 1 min. The resulting solution was evaporated to give 1.06 g (78%) of 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-(2-methoxy-ethyl) ester hydrochloride salt as a white solid; 1H NMR (300 MHz, CDCl3): δ 1.33 (brm, 3H), 2.75-2.88 (brm, 1H), 3.10-3.30 (brm, 2H), 3.35 (s, 6H), 3.40-3.53 (brm 2H), 3.63-3.68 (complexm, 4H), 4.40-4.48 (brm, 4H), 5.40-5.50 (brd, 1H), 5.50-5.75 (brs, 1H), 6.70-6.91 (complex m, 4H), 7.18-7.38 (m, 2H), 7.43 (s, 1H), 8.60-8.85 (brs, 1H), 9.90-10.15 (brs, 1H); MS (ES) m/z (relative intensity): 538 (M+ -HCl, 100).

reactant | 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid | 2.37 mmol, 1.0 g | ClC=1C=C(C=CC1)C(CNC(CC1=CC2=C(OC(O2)(C(=O)O)C(=O)O)C=C1)C)O | C20H20ClNO7
reactant | 2-methoxy-1-ethanol | 10 mL | COCCO | C3H8O2
reactant | HCl | Cl | ClH
reactant | 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-(2-methoxy-ethyl) ester | COCCOC(=O)C1(OC2=C(O1)C=CC(=C2)CC(C)NCC(O)C2=CC(=CC=C2)Cl)C(=O)OCCOC | C26H32ClNO9
solvent | Et2O | 10 mL | CCOCC | C4H10O
product | 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-(2-methoxy-ethyl) ester hydrochloride salt | 1.06 g, 78% | Cl.COCCOC(=O)C1(OC2=C(O1)C=CC(=C2)CC(C)NCC(O)C2=CC(=CC=C2)Cl)C(=O)OCCOC | InChI=1S/C26H32ClNO9.ClH/c1-17(28-16-21(29)19-5-4-6-20(27)15-19)13-18-7-8-22-23(14-18)37-26(36-22,24(30)34-11-9-32-2)25(31)35-12-10-33-3;/h4-8,14-15,17,21,28-29H,9-13,16H2,1-3H3;1H
